US08809339B2
3-((3-((4-(piperidin-1-yl)-2-((2-(3-(trifluoromethyl)phenyl)pyrimidin-5-yl)-carbamoyl)phenyl)carbamoyl)benzyl)thio)propanoic acid
To methyl 3-(3-((4-(piperidin-1-yl)-2-((2-(3-(trifluoromethyl)phenyl)pyrimidin-5-yl)carbamoyl)phenyl)carbamoyl)-benzylthio)propanoate (280 mg, 0.41 mmol, 1.00 equiv) in tetrahydrofuran (8 mL) was added LiOH H2O (500 mg, 11.90 mmol, 25.00 equiv) in water (2 mL) and the resulting solution was stirred overnight at room temperature. The reaction progress was monitored by LCMS. The solution was adjusted to pH 5-6 with hydrochloric acid and then extracted with 2×20 mL of ethyl acetate. The organic layers were combined, dried over anhydrous sodium sulfate, and concentrated under vacuum until about 5 mL remained. The product was then precipitated with petroleum ether and the resulting solids were collected by filtration and washed with ether. This resulted in 0.22 g (80%) of product as a yellow to green solid. 1H-NMR (400 MHz, DMSO, ppm): δ 12.24 (s, 1H), 10.92 (s, 1H), 10.91 (s, 1H), 9.27 (s, 2H), 8.64 (m, 2H), 68.06 (d, 1H), 7.89 (d, 2H), 7.75-7.80 (m, 2H), 7.47-7.53 (m, 2H), 7.39 (s, 1H), 7.25 (d, 1H), 3.83 (s, 2H) 3.24 (m, 4H), 2.58 (t, 2H), 1.67 (m, 4H). 1.58 (m, 2H). MS (ES, m/z): 664 [M+H]+.

reactant | methyl 3-(3-((4-(piperidin-1-yl)-2-((2-(3-(trifluoromethyl)phenyl)pyrimidin-5-yl)carbamoyl)phenyl)carbamoyl)-benzylthio)propanoate | 0.41 mmol, 280 mg, 1.00 equiv | N1(CCCCC1)C1=CC(=C(C=C1)NC(=O)C=1C=C(CSCCC(=O)OC)C=CC1)C(NC=1C=NC(=NC1)C1=CC(=CC=C1)C(F)(F)F)=O | C35H34F3N5O4S
reactant | LiOH H2O | 11.90 mmol, 500 mg, 25.00 equiv | O[Li].O
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
solvent | water | 2 mL | O | H2O
product | 3-((3-((4-(piperidin-1-yl)-2-((2-(3-(trifluoromethyl)phenyl)pyrimidin-5-yl)-carbamoyl)phenyl)carbamoyl)benzyl)thio)propanoic acid | 0.22 g, 80% | N1(CCCCC1)C1=CC(=C(C=C1)NC(=O)C=1C=C(CSCCC(=O)O)C=CC1)C(NC=1C=NC(=NC1)C1=CC(=CC=C1)C(F)(F)F)=O | C34H32F3N5O4S
